US06294562B1
2b. Ethyl (S)-3-(2-((S)-4-(4-(amino-hydroximino-methyl)phenyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetylamino)-3-phenylpropionate
b 120 l of ethanol were initially introduced into a vessel. At room temperature, 12 kg (26.786 mol) of ethyl (S)-3-(2-((S)-4-(4-cyanophenyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetylamino)-3-phenylpropionate were added into the vessel, while stirring. 3.74 kg (53.813 mol) of hydroxylamine hydrochloride and 5.44 kg (7.45 l; 53.86 mol) of triethylamine were added. The reaction mixture was heated to reflux and stirred at 80° C. for 2 h. 90 l of ethanol were distilled off in vacuo at a bath temperature of 50° C. The remaining mixture was taken up in 220 l of ethyl acetate and this latter mixture was extracted three times with 50 l of water on each occasion. The ethyl acetate phase was evaporated down to 30 l in vacuo and at a bath temperature of 50° C. It was treated four times with 10 l of toluene on each occasion and evaporated to dryness.

reactant | ethyl (S)-3-(2-((S)-4-(4-cyanophenyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetylamino)-3-phenylpropionate | 26.786 mol, 12 kg | C(#N)C1=CC=C(C=C1)[C@@]1(NC(N(C1=O)CC(=O)N[C@@H](CC(=O)OCC)C1=CC=CC=C1)=O)C | C24H24N4O5
reactant | hydroxylamine hydrochloride | 53.813 mol, 3.74 kg | Cl.NO
reactant | triethylamine | 53.86 mol, 7.45 l, 5.44 kg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 120 l | C(C)O | C2H6O
product | Ethyl (S)-3-(2-((S)-4-(4-(amino-hydroximino-methyl)phenyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetylamino)-3-phenylpropionate | NC(C1=CC=C(C=C1)[C@@]1(NC(N(C1=O)CC(=O)N[C@@H](CC(=O)OCC)C1=CC=CC=C1)=O)C)=NO | C24H27N5O6
